US07091220B2
5-Chloro-3-[(2-methoxyphenyl)-piperidin-1-yl-methyl]-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 5-chloro-1H-indole and 1-(2-methoxy-benzylidene)-piperidinium chloride, which had been prepared in accordance with example 40.

reactant | 5-chloro-1H-indole | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | 1-(2-methoxy-benzylidene)-piperidinium chloride | [Cl-].COC1=C(C=[N+]2CCCCC2)C=CC=C1
product | 5-Chloro-3-[(2-methoxyphenyl)-piperidin-1-yl-methyl]-1H-indole | ClC=1C=C2C(=CNC2=CC1)C(N1CCCCC1)C1=C(C=CC=C1)OC | C21H23ClN2O
